US04755522
(a) Preparation of 1-(2,4,6-trimethoxybenzoyl)-1-chloropropane
Over 1 hour 30 min. a solution of 60.5 g (0.232 mole) of stannic chloride in 75 ml of benzene is poured into a solution maintained at about 5° C. of 33.6 g (0.200 mole) of 1,3,5-trimethoxybenzene and of 30.5 g (0.216 mole) of 4-chlorobutyryl chloride in 150 ml of benzene, with agitation for 3 hours at ambient temperature. The reactional medium is poured on to 250 ml of iced 4N hydrochloric acid and the organic phase is decanted.

reactant | 1,3,5-trimethoxybenzene | 0.200 mole, 33.6 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | 4-chlorobutyryl chloride | 0.216 mole, 30.5 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,4,6-trimethoxybenzoyl)-1-chloropropane | COC1=C(C(=O)C(CC)Cl)C(=CC(=C1)OC)OC | C13H17ClO4
